### PR TITLE
[Merged by Bors] - feat(NumberTheory/SmoothNumbers): add material on numbers with prime factors in a given Finset

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
As a preparation for refactoring Euler products to use the new infinite products, this PR generalizes `Nat.smoothNumbers n` to `Nat.factoredNumbers s` where `s` is a `Finset` of natural numbers; this is the set of all positive natural numbers all of whose prime factors are in `s`. We correspondingly generalize the API and use the new statements to golf the proofs of the old ones. (We also eliminate a few fairly slow `convert`s and a `tauto`, so that the file should now be faster than before, even though it contains quite a few new declarations.)

See [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Infinite.20products/near/431508883) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 1]
```diff
@@ -49,87 +55,246 @@ lemma primesBelow_succ (n : ℕ) :
...
+
+/-- `m` is `s`-factored if and only if all prime divisors of `m` are in `s`. -/
+lemma mem_factoredNumbers' {s : Finset ℕ} {m : ℕ} :
+    m ∈ factoredNumbers s ↔ ∀ p, p.Prime → p ∣ m → p ∈ s := by
+  obtain ⟨p, hp₁, hp₂⟩ := exists_infinite_primes (1 + Finset.sup s id)
+  rw [mem_factoredNumbers_iff_forall_le]
+  refine ⟨fun ⟨H₀, H₁⟩ ↦ fun p hp₁ hp₂ ↦ H₁ p (Nat.le_of_dvd (Nat.pos_of_ne_zero H₀) hp₂) hp₁ hp₂,
+         fun H ↦ ⟨fun h ↦ ?_, fun p _ ↦ H p⟩⟩
+  exact ((Finset.le_sup (f := @id ℕ) <| (H p hp₂ <| h.symm ▸ dvd_zero p)).trans_lt (lt_one_add _)
+            |>.trans_le hp₁).false
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:102]: This feels like it's golfed a bit much. Maybe put `lt_irrefl` in the `refine` above and use `calc` here?

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 2]
```diff
@@ -49,87 +55,246 @@ lemma primesBelow_succ (n : ℕ) :
...
   fun hn ↦ (lt_of_mem_primesBelow hn).false
 
+
+/-!
+### `s`-factored numbers
+-/
+
+/-- `factoredNumbers s`, for a finite set `s` of natural numbers, is the set of positive natural
+numbers all of whose prime factors are in `s`. -/
+def factoredNumbers (s : Finset ℕ) : Set ℕ := {m | m ≠ 0 ∧ ∀ p ∈ factors m, p ∈ s}
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:65]: `factors m` is a `List` and `s` is a `Finset`, so this doesn't typecheck.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:102]: It's slightly slower, but I agree that it is clearer.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 3]
```diff
@@ -49,87 +55,247 @@ lemma primesBelow_succ (n : ℕ) :
...
+    m ∈ factoredNumbers s ↔ m ≠ 0 ∧ ∀ p ∈ factors m, p ∈ s :=
+  Iff.rfl
+
+/-- Membership in `Nat.factoredNumbers n` is decidable. -/
+instance (s : Finset ℕ) : DecidablePred (· ∈ factoredNumbers s) :=
+  inferInstanceAs <| DecidablePred fun x ↦ x ∈ {m | m ≠ 0 ∧ ∀ p ∈ factors m, p ∈ s}
+
+/-- A number that divides an `s`-factored number is itself `s`-factored. -/
+lemma mem_factoredNumbers_of_dvd {s : Finset ℕ} {m k : ℕ} (h : m ∈ factoredNumbers s)
+    (h' : k ∣ m) (hk : k ≠ 0) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/SmoothNumbers.lean:77]: You should be able to use `ne_zero_of_dvd_ne_zero` to remove `hk`, I think.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 4]
```diff
@@ -49,87 +55,248 @@ lemma primesBelow_succ (n : ℕ) :
...
+  Iff.rfl
+
+/-- Membership in `Nat.factoredNumbers n` is decidable. -/
+instance (s : Finset ℕ) : DecidablePred (· ∈ factoredNumbers s) :=
+  inferInstanceAs <| DecidablePred fun x ↦ x ∈ {m | m ≠ 0 ∧ ∀ p ∈ factors m, p ∈ s}
+
+/-- A number that divides an `s`-factored number is itself `s`-factored. -/
+lemma mem_factoredNumbers_of_dvd {s : Finset ℕ} {m k : ℕ} (h : m ∈ factoredNumbers s)
+    (h' : k ∣ m) :
+    k ∈ factoredNumbers s := by
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/SmoothNumbers.lean:78]:
```suggestion
    (h' : k ∣ m) : k ∈ factoredNumbers s := by
```
Isn't that the preferred style?

**Review by kbuzzard — APPROVED** [review]
Thanks a lot! 

bors d+

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:78]: My preference is to have the statement on a separate line when name+args span more than one line.
I've been told in another PR that both versions are fine, so I'll leave it as it is.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:78]: I'll merge after breakfast unless told not to.
